US07060827B2
In like manner to the preparation of 5-fluoro-N4-(3-hydroxyphenyl)-N2-[4-(3-phenyl-1,2,4-oxadiazol-5-yl)methyleneoxyphenyl]-2,4-pyrimidinediamine, 2-chloro-N4-[3-[[4-(ethoxycarbonyl)piperidino]carbonyl]phenyl]-5-fluoro-4-pyrimidineamine and 3-hydroxyaniline were reacted to provide N4-[3-[[4-(ethoxycarbonyl)piperidino]carbonyl]phenyl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.93 (d, 1H, J=3.6 Hz), 7.89 (t, 1H, J=1.8 Hz), 7.83 (td, 1H, J=1.2 and 8.4 Hz), 7.41 (t, 1H, J=7.8 Hz), 7.11–6.95 (m, 4H), 6.41 (td, 1H, J=1.8 and 7.2 Hz), 4.44 (bd, 1H, J=12.9 Hz), 4.10 (q, 2H, J=7.2 Hz), 3.73 (bd, 1H, J=12.3 Hz), 3.18–2.98 (m, 2H), 2.67–2.55 (m, 1H), 2.05–1.53 (m, 4H), 1.23 (t, 3H, J=7.2 Hz); 19F NMR (282 MHz, CD3OD): −47483; LCMS: purity: 99%; MS (m/e): 480(MH+).

reactant | 2-chloro-N4-[3-[[4-(ethoxycarbonyl)piperidino]carbonyl]phenyl]-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)C(=O)N1CCC(CC1)C(=O)OCC)F | C19H20ClFN4O3
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | N4-[3-[[4-(ethoxycarbonyl)piperidino]carbonyl]phenyl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C(C)OC(=O)C1CCN(CC1)C(=O)C=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C25H26FN5O4
